US06900216B2
A solution of 3-bromo-4-methylbenzo[b]thiophene (2 g) in tetrahydrofuran (10 ml) was added dropwise under nitrogen at −70° C. over 10 minutes to a stirred solution of n-butyllithium (2.5M solution in hexanes; 4.58 ml) in ether (30 ml), then the mixture was stirred at −70° C. for 30 minutes. A solution of 2-chloro-N-methoxy-N-methylacetamide (1.04 g) in tetrahydrofuran (10 ml) was added dropwise at −70° C. over 10 minutes, then the mixture was stirred at −70° C. for 5 hours, allowed to stand at ambient temperature for 18 hours and quenched by the addition of saturated aqueous ammonium chloride solution (40 ml). The organic layer was separated, washed with saturated aqueous sodium chloride solution (40 ml), and dried (MgSO4). The solvents were removed in vacuo to give 2-chloro-1-(4-methylbenzo[b]thiophen-2-yl]ethan-1-one (1.65 g) as a brown oil which was used without further purification.

reactant | 3-bromo-4-methylbenzo[b]thiophene | 2 g | BrC=1C2=C(SC1)C=CC=C2C | C9H7BrS
reactant | n-butyllithium | 2.5M, 4.58 ml | C(CCC)[Li]
reactant | 2-chloro-N-methoxy-N-methylacetamide | 1.04 g | ClCC(=O)N(C)OC | C4H8ClNO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-chloro-1-(4-methylbenzo[b]thiophen-2-yl]ethan-1-one | 1.65 g | ClCC(=O)C1=CC2=C(S1)C=CC=C2C | C11H9ClOS
